US07384963B2
N-(2-Methoxy-5-nitrobenzyl)acetamide 2-Acetamidomethyl-4-nitrophenol (2 g), sodium carbonate (2 g) and iodomethane (2 ml) were stirred in acetone (30 ml) at reflux 4 h. The mixture was filtered, the filtrate evaporated to dryness. The residue was warmed with aqueous sodium carbonate, washed with water and dried. Crystallised from ethanol/dilute acetic acid to give N-(2-methoxy-5-nitrobenzyl)acetamide as buff prisms. MP: 158.5-159.5° C.

reactant | N-(2-Methoxy-5-nitrobenzyl)acetamide 2-Acetamidomethyl-4-nitrophenol | 2 g | C(C)(=O)NCC1=C(C=CC(=C1)[N+](=O)[O-])O.COC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-]
reactant | sodium carbonate | 2 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | iodomethane | 2 ml | IC | CH3I
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N-(2-methoxy-5-nitrobenzyl)acetamide | COC1=C(CNC(C)=O)C=C(C=C1)[N+](=O)[O-] | C10H12N2O4
